US07569516B2
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazole-3-carboxylic acid (Compound 2.1)
A stirred mixture of 5-amino-1 -(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfinyl-1 H-pyrazole-3-carbonitrile (5.00 g, 11.4 mmol) and sulfuric acid (50%, 100 ml) was heated to 135° C. for 3 hours. The cooled mixture was added to ice water and the pH adjusted to 4 by the addition of aqueous sodium hydroxide (6 N, approx. 230 ml), and then extracted with ethyl acetate. The organic phase was dried over magnesium sulfate, evaporated to dryness and purified by flash chomatography (silica, chloroform/ethanol) with subsequently trituration with tetrachloromethane to give the title compound (3.00 g, yield 77%) as off-white crystals, mp 213° C., 1H NMR (DMSO-d6): 5.69 (bs, 2H, NH2), 5.76 (s, 1H, pyrazole-H), and 8.20 (s, 2H, Ar—H).

reactant | 5-amino-1 -(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfinyl-1 H-pyrazole-3-carbonitrile | 11.4 mmol, 5.00 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)C(F)(F)F | C12H4Cl2F6N4OS
reactant | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 6 N, approx. 230 ml | [OH-].[Na+]
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazole-3-carboxylic acid | 3.00 g, yield 77% | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(=O)O | C11H6Cl2F3N3O2
